US07915271B2
Step C 2-methyl-4-trifluoromethyl-6-nitro-phenyl Iodide
A 1:1 mixture of H2SO4/HNO3 (20 ml) was added to 2-methyl-4-trifluoromethylphenyl iodide at 0° C. The mixture was stirred at 0° C. and then warmed to room temperature overnight. LC/MS analysis indicated no remaining starting material. The mixture was diluted with water and extracted with EtOAc (3×50 ml). The combined EtOAc layers were washed with sodium bicarbonate and brine and dried over sodium sulfate. The title compound was obtained after removal of solvent. 1H NMR (CDCl3, 500 MHz): δ 7.71 (s, 1H), 7.69 (s, 1H), 2.68 (s, 3H).

reactant | H2SO4 HNO3 | 20 ml | OS(=O)(=O)O.[N+](=O)(O)[O-]
reactant | 2-methyl-4-trifluoromethylphenyl iodide | CC1=C(C=CC(=C1)C(F)(F)F)I | C8H6F3I
solvent | water | O | H2O
product | 2-methyl-4-trifluoromethyl-6-nitro-phenyl Iodide | CC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])I | C8H5F3INO2
